data/mechanism_extracts/ChinChemLett/10.1016_j.cclet.2021.06.008.json
{"doi": "10.1016_j.cclet.2021.06.008", "journal": "ChinChemLett", "is_review": false, "rxn_class_summary": "Catalyst- and oxidant-free electrochemical trifluoromethylation/cyclization of N-arylacrylamides to 3-CF3-substituted oxindoles using TfNHNHBoc (CF3SO2NHNHBoc) as the CF3 source", "mechanism_family": ["radical_anodic"], "electrochemical_role": "Anodic oxidation of TfNHNHBoc (reagent 1) to a diazene intermediate I that fragments to release •CF3; cathode reduces protons to H2", "key_intermediates": [{"name": "diazene CF3SO2-N=N-Boc (I) from 2e- anodic oxidation of TfNHNHBoc", "smiles": "O=S(=O)(C(F)(F)F)/N=N/C(=O)OC(C)(C)C", "role": "transient"}, {"name": "trifluoromethyl radical (•CF3) generated after loss of SO2, N2, tBu•", "smiles": "[CH](F)(F)F", "role": "reactive"}, {"name": "alkyl C-centered radical II from •CF3 addition to acrylamide alkene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl radical III from intramolecular ipso/ortho radical cyclization onto arene", "smiles": null, "role": "reactive"}, {"name": "cyclohexadienyl cation IV from anodic oxidation of III", "smiles": null, "role": "reactive"}, {"name": "trifluoromethylated oxindole product 3 after deprotonation of IV", "smiles": null, "role": "reactive"}], "electron_flow": "TfNHNHBoc is oxidized at the graphite anode (2e-) to diazene I, which fragments (loss of SO2, N2, tBu•) to give •CF3; the radical adds to the acrylamide alkene to form C-radical II that undergoes intramolecular cyclization onto the aryl ring to give cyclohexadienyl radical III; III is further anodically oxidized to cation IV, which loses a proton to give oxindole 3, while H+ is reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "3 equiv. BHT fully suppressed product formation, indicating a free-radical intermediate"}], "evidence_types_used": ["intermediate_trap_BHT", "cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "medium", "notes": "CV showed reagent 1 oxidizes at 1.45 V vs SCE, lower than substrate 2a (~2.03 V), supporting that 1 is oxidized first at the anode. Control with no electricity gave 0% yield. Gram-scale (7 mmol) reaction gave 3a in 55% yield. No oxindole product was observed without electricity."}
